US07183276B2
A mixture of 4-(4-chlorophenyl)-5-methyl-2-phenylthiazole (35.1 g), N-bromosuccinimide (24.0 g), azobisisobutyronitrile (4.11 g) and carbon tetrachloride (400 mL) was stirred with heating under reflux for 3 hrs. The precipitated solid was removed by filtration and the organic layer was concentrated. The residue was purified by silica gel column chromatography. 5-(Bromomethyl)-4-(4-chlorophenyl)-2-phenylthiazole (30.8 g, 69%) was obtained as crystals from a fraction eluted with hexane-ethyl acetate (19:1, volume ratio). Recrystallization from ethyl acetate gave colorless prism crystals. melting point: 108–109° C.

reactant | 4-(4-chlorophenyl)-5-methyl-2-phenylthiazole | 35.1 g | ClC1=CC=C(C=C1)C=1N=C(SC1C)C1=CC=CC=C1 | C16H12ClNS
reactant | N-bromosuccinimide | 24.0 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | azobisisobutyronitrile | 4.11 g | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
solvent | carbon tetrachloride | 400 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 5-(Bromomethyl)-4-(4-chlorophenyl)-2-phenylthiazole | 30.8 g, 69% | BrCC1=C(N=C(S1)C1=CC=CC=C1)C1=CC=C(C=C1)Cl | C16H11BrClNS
